US09403801B2
Step 1) tert-butyl 5-((5-chloro-2-((1,5-dimethyl-1H-pyrazol-3-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate
To a solution of tert-butyl 5-[(2,5-dichloropyrimidin-4-yl)amino]-hexahydro-1H-cyclopenta[c]pyrrole-2-carboxylate (1.29 g, 3.46 mmol) and 1,5-dimethylpyrazol-3-amine (0.80 g, 7.20 mmol) in 1,4-dioxane (20 mL) was added trifluoroacetic acid (2.01 g, 17.60 mmol). The reaction mixture was stirred at 100° C. overnight and adjusted to pH=10 with a saturated Na2CO3 solution, then extracted with EtOAc (100 mL×3). The combined organic phases were washed with brine (50 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=2/1) to give the title compound as a yellow solid (294.5 mg, 19%).

reactant | tert-butyl 5-[(2,5-dichloropyrimidin-4-yl)amino]-hexahydro-1H-cyclopenta[c]pyrrole-2-carboxylate | 3.46 mmol, 1.29 g | ClC1=NC=C(C(=N1)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1)Cl | C16H22Cl2N4O2
reactant | 1,5-dimethylpyrazol-3-amine | 7.20 mmol, 0.80 g | CN1N=C(C=C1C)N | C5H9N3
reactant | trifluoroacetic acid | 17.60 mmol, 2.01 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 5-((5-chloro-2-((1,5-dimethyl-1H-pyrazol-3-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 294.5 mg, 19% | ClC=1C(=NC(=NC1)NC1=NN(C(=C1)C)C)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C21H30ClN7O2
